US05569760
The process according to claim 3, wherein 2-chloro-N-(2-chloro-4-methyl-3-pyridyl)-3-pyridine carboxamide is heated with cyclopropylamine in the presence of 0.5 to 2 mol of calcium oxide in an inert solvent to a temperature of 130° to 150° C. over a period of 5 to 8 hours, the reaction mixture is then cooled to a temperature below 40° C. and filtered, the filter cake is washed with an inert solvent and the combined filtrates are concentrated, the residue is then diluted with an inert solvent and this solution is added to a solution or suspension of a base in an inert solvent, heated at 120° to 150° C., the reaction mixture is then kept at a temperature of 120° to 150° C. for 30 to 90 minutes, the reaction medium is then distilled off as much as possible and the residue is hydrolysed at a temperature of 20° to 90° C., the hydrolysed residue is cooled down and mixed with an inert solvent and an organic acid and the mixture is stirred at a temperature of 5° to 50° C. for 30 to 90 minutes, the product is then present as a suspension which is isolated and washed with an inert solvent, followed by water and an alcohol to give nevirapine.

reactant | 2-chloro-N-(2-chloro-4-methyl-3-pyridyl)-3-pyridine carboxamide | ClC1=NC=CC=C1C(=O)NC=1C(=NC=CC1C)Cl | C12H9Cl2N3O
reactant | cyclopropylamine | C1(CC1)N | C3H7N
reactant | calcium oxide | 0.5 to 2 mol | [O-2].[Ca+2]
product | nevirapine | CC=1C=CN=C2C1NC(=O)C=3C=CC=NC3N2C4CC4 | C15H14N4O
